US07432258B2
a) 1,1-dimethylethyl {4′-[1-[[(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetyl](methyl)amino]-2-(4-morpholinyl)ethyl]-4-biphenylyl}carbamate
To a solution of N-[1-(4-bromophenyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide (1.64 g, 2.9 mmol) and [4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)phenyl]boronic acid (0.77 g, 3.2 mmol) in DMF (10 mL) was added Pd(dppf)Cl2 (0.12 g, 0.15 mmol) and 2N aqueous solution of Na2CO3 (0.26 mL, 0.52 mmol). The resultant mixture was stirred at 80° C. for 16 h. The mixture was filtered through a 0.45 uM filter and concentrated under reduce pressure. The residue was dissolved in ethyl acetate (100 mL)and washed with 5% NaHCO3 (100 mL) and brine (100 mL). The organic layer was dried over MgSO4 and concentrated. The residue was recrystalized in methanol to give 0.77 g (40%) white solid. The mother liquid was concentrated and was purified by using a Gilson preparative HPLC (Phenomenex, 100×50 mm, 10 micron, 90 mL/min, A: acetonitrile B: water, A: 10 to 90% over 15 min, UV detection at 214 nm) to give 0.10 g (5%) of the title compound as yellow oil. Total yield 45%. MS (ES) m/e 669.4 [M+H]+.

reactant | N-[1-(4-bromophenyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | 2.9 mmol, 1.64 g | BrC1=CC=C(C=C1)C(CN1CCOCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C | C23H24BrCl2N3O4
reactant | [4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)phenyl]boronic acid | 3.2 mmol, 0.77 g | CC(C)(C)OC(=O)NC1=CC=C(C=C1)B(O)O | C11H16BNO4
reactant | Na2CO3 | 0.52 mmol, 0.26 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.15 mmol, 0.12 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1-dimethylethyl {4′-[1-[[(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetyl](methyl)amino]-2-(4-morpholinyl)ethyl]-4-biphenylyl}carbamate | 0.77 g, 40% | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)N(C(CN2CCOCC2)C2=CC=C(C=C2)C2=CC=C(C=C2)NC(OC(C)(C)C)=O)C)C1)Cl | C34H38Cl2N4O6
